US07700625B2
20C. (1,3-Dihydro-isoindol-2-yl)-(2,4-dihydroxy-5-trifluoromethyl-phenyl)-methanone
A solution of (2,4-bis-benzyloxy-5-trifluoromethyl-phenyl)-(1,3-dihydro-isoindol-2-yl)-methanone (140 mg, 0.28 mmol) in methanol (5 mL) was hydrogenated at atmospheric pressure over 10% palladium on charcoal (34 mg) for 4 hours. A further portion of catalyst was added (31 mg) and hydrogenation continued for a further 1.5 hours. The mixture was filtered through Celite, eluting with methanol, then the filtrate was concentrated in vacuo to afford the title compound as a white solid (91 mg, quant.). 1H NMR (DMSO-d6) 10.79 (1H, s), 10.70 (1H, s), 7.40-7.35 (2H, m), 7.31-7.35 (3H, m), 6.61 (1H, s), 4.79 (2H, br.s), 4.68 (2H, br.s). MS: [M+H]+ 324.

reactant | (2,4-bis-benzyloxy-5-trifluoromethyl-phenyl)-(1,3-dihydro-isoindol-2-yl)-methanone | 0.28 mmol, 140 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(F)(F)F)C(=O)N1CC2=CC=CC=C2C1 | C30H24F3NO3
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 34 mg | [Pd] | Pd
product | (1,3-Dihydro-isoindol-2-yl)-(2,4-dihydroxy-5-trifluoromethyl-phenyl)-methanone | 91 mg | C1N(CC2=CC=CC=C12)C(=O)C1=C(C=C(C(=C1)C(F)(F)F)O)O | C16H12F3NO3
